US08012981B2
1,1-Dimethylethyl 4-{[4-fluoro-3-(methyloxy)phenyl]amino}-1-piperidinecarboxylate (D9)
A solution of 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (1.41 g, 7.1 mmol) and 4-fluoro-3-methoxyaniline (1 g, 7.1 mmol) was stirred at room temperature for 1 h. Sodium tri(acetoxy)borohydride (1.95 g, 9.2 mmol) was then added and stirring continued over-weekend. The reaction mixture was diluted with DCM, washed with saturated aqueous NaHCO3 solution, dried and then concentrated in vacuo. Column chromatography eluting with 0-50% Et2O/petroleum ether gave the title compound as a white solid (1.45 g). δH (CDCl3, 400 MHz) 6.89 (1H, dd), 6.22 (1H, dd), 6.09 (1H, m), 4.03 (2H, br s), 3.84 (3H, s), 3.36 (1H, br s), 2.92 (2H, m), 2.03 (2H, m), 1.46 (9H, s), 1.32 (2H, m).

reactant | 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate | 7.1 mmol, 1.41 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-fluoro-3-methoxyaniline | 7.1 mmol, 1 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | Sodium tri(acetoxy)borohydride | 9.2 mmol, 1.95 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 4-{[4-fluoro-3-(methyloxy)phenyl]amino}-1-piperidinecarboxylate | 1.45 g | FC1=C(C=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C17H25FN2O3
